US04567184
Methyl-3-[[3-(1-methoxyhexyl)phenoxy]methyl]benzoate
To a suspension of sodium hydride (0.5 g.) in ethyl ether at 0° C. was added methyl-3-[[3-(1-hydroxyhexyl)phenoxy]methyl]benzoate (1.7 g.) in ether. The mixture was allowed to warm to room temperature. Methyl iodide (0.6 ml) was added and the reaction was stirred at room temperature for three days. The reaction was quenched with saturated aqueous ammonium chloride. The mixture was extracted with ethyl ether. The organic extract was washed with water, dried (MgSO4) and concentrated to an oil. The oil was purified by HPLC on silica gel using a 1:9 ratio of ethyl acetate/hexanes as an eluent.

reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | methyl-3-[[3-(1-hydroxyhexyl)phenoxy]methyl]benzoate | 1.7 g | COC(C1=CC(=CC=C1)COC1=CC(=CC=C1)C(CCCCC)O)=O | C21H26O4
reactant | Methyl iodide | 0.6 ml | CI | CH3I
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | Methyl-3-[[3-(1-methoxyhexyl)phenoxy]methyl]benzoate | COC(C1=CC(=CC=C1)COC1=CC(=CC=C1)C(CCCCC)OC)=O | C22H28O4
